US07625908B2
To a stirred solution of the 2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethanol (20 g) in DCM (200 ml) and THF (200 ml) was added thionyl chloride (20 ml) at ambient temperature. The solution was then heated under reflux for 2 hours. The solution was cooled and product filtered off to give 5-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine as its hydrochloride salt (25 g, 98%); NMR spectrum (DMSO-d6) 4.20-4.40 (t, 2H), 4.60-4.80 (t, 2H), 5.40 (s, 2H), 7.20-7.60 (m, 3H), 7.60-7.80 (m, 3H), 7.90-8.10 (m, 3H), 8.60-8.70 (d, 1H), 8.9 (s, 1H), 10.65-10.83 (bs, 1H); Mass spectrum MH+ 441.

reactant | 2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethanol | 20 g | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCO | C22H19ClN4O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine | ClCCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C22H18Cl2N4O2
